US06114325
[2-[[N-[2-(Dibutylamino)ethyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide (Compound 26)
Pyridine (0.30 ml) and phenyl chlorocarbonate (0.35 ml) were added to a suspension of [2-(hydroxymethyl)phenyl]-N-octadecylformamide (1.38 g) in dichloromethane (10 ml) while being cooled with ice. After being stirred for 1 hours at room temperature, the reaction mixture, with chloroform added thereto, was washed with saturated sodium hydrogencarbonate aqueous solution and water successively, dried over sodium sulfate anhydride, and then concentrated. N,N-Di-n-butylethylenediamine (0.57 ml) was added to the residue. After being stirred for 3 hours at 70° C., the reaction mixture was purified by silica gel column chromatography (silica gel 40 g, chloroform:methanol=50:1), thereby yielding 1.31 g of the aimed compound as white solid.

reactant | Pyridine | 0.30 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chlorocarbonate | 0.35 ml | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | [2-(hydroxymethyl)phenyl]-N-octadecylformamide | 1.38 g | OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC | C26H45NO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | [2-[[N-[2-(Dibutylamino)ethyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide | 1.31 g | C(CCC)N(CCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)CCCC | C37H67N3O3
